US07618975B2
(4-Azido-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine
To a solution of (2-methyl-quinazolin-4-yl)-(4-amino-phenyl)-methylamine (20 mg, 0.076 mmol) in 1.2 mL of 1N HCl was added 100 uL of methanol and it was cooled 0° C. One drop of concentrated HCl was added and the solution was stirred at 0° C. for 0.25 h. To the solution was added dropwise a solution of sodium nitrite (25 mg, 0.36 mmol) in 200 uL of water. The reaction mixture was stirred for 0.5 h, then was added a solution of sodium azide (25 mg, 0.38 mmol) in 300 uL of water followed by another batch of sodium azide (25 mg, 0.38 mmol). The reaction mixture was stirred at the 0° C. for 1 h. The reaction mixture was diluted with 50 mL of ethyl acetate, washed with saturated sodium bicarbonate followed by saturated sodium chloride. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated. The residue was purified by column chromatography (20-25% ethyl acetate/hexanes) on silica gel to give the title compound (19.8 mg, 0.068 mmol, 90%). 1H NMR (CDCl3): 7.76 (m, 1H), 7.56 (ddd, J=8.1, 6.3, 1.8, 1H), 7.13 (m, 2H), 6.98-7.13 (m, 4H), 3.61 (s, 3H), 2.74 (s, 3H).

reactant | (2-methyl-quinazolin-4-yl)-(4-amino-phenyl)-methylamine | 0.076 mmol, 20 mg | CC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)N | C16H16N4
reactant | methanol | 100 uL | CO | CH4O
reactant | sodium nitrite | 0.36 mmol, 25 mg | N(=O)[O-].[Na+]
reactant | sodium azide | 0.38 mmol, 25 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium azide | 0.38 mmol, 25 mg | [N-]=[N+]=[N-].[Na+]
solvent | HCl | 1N, 1.2 mL | Cl | ClH
catalyst | HCl | One drop | Cl | ClH
solvent | water | 200 uL | O | H2O
solvent | water | 300 uL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (4-Azido-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine | 0.068 mmol, 19.8 mg, 90% | N(=[N+]=[N-])C1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C | C16H14N6
